* C:\Users\cliente\Documents\(EngenhariaEletrônica)\(FASE_4)\Eletrônica_I\Fonte_linear\esquematico.asc
V1 N004 0 SINE(0 12 60)
D1 N009 N001 D1N4007
D2 N004 N001 D1N4007
D3 N010 N009 D1N4007
D4 N010 N004 D1N4007
XU1 N005 N007 N001 0 N006 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R2 N001 N003 22
R3 N007 0 1700
R4 N002 N007 1000
C3 N005 0 10µ
C4 0 N006 10µ
RL N002 0 10
C5 N002 0 100µ
XU4 N001 N006 N002 tip121
V2 N009 0 SINE(0 12 60)
C6 N001 0 1000µ V=60
C7 N010 0 100µ V=60
Q1 N008 N003 N001 0 BC560A
Q2 N005 N008 N003 0 BC560A
R1 N008 0 4700
XU5 0 N005 DI_1N4728A
XU2 NC_01 NC_02 N011 BC850C
R5 0 N011 4700
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.bjt
.tran 0.1s
#.step temp 0 100 25
.lib ..\sym\EXTRA\DIODES.COM\ZENER\LIB\zener.lib
.lib Sborka.lib
.lib UniversalOpamps2.sub
.backanno
.end
